US04292152
2,4,6-Trimethylbenzoyl-diphenylphosphine oxide
648 parts of methoxydiphenylphosphine are added slowly to 547.5 parts of 2,4,6-trimethylbenzoyl chloride at 50°-95° C. in a stirred apparatus equipped with a reflux condenser and dropping funnel. The mixture is then stirred for 4-5 hours at 50° C., the contents of the flask are dissolved in ether at 30° C., and petroleum ether is added until the mixture starts to turn cloudy. On cooling, 910 parts (87% of theory) of 2,4,6-trimethylbenzoyl-diphenylphosphine oxide crystallize. Pale yellow crystals, melting point 89°-92° C.

reactant | methoxydiphenylphosphine | COP(C1=CC=CC=C1)C1=CC=CC=C1 | C13H13OP
reactant | 2,4,6-trimethylbenzoyl chloride | CC1=C(C(=O)Cl)C(=CC(=C1)C)C | C10H11ClO
solvent | ether | CCOCC | C4H10O
product | 2,4,6-Trimethylbenzoyl-diphenylphosphine oxide | CC1=C(C(=O)P(C2=CC=CC=C2)(C2=CC=CC=C2)=O)C(=CC(=C1)C)C | C22H21O2P
